US04734430
Hydrazine (0.5 ml) was added slowly to a warm solution of 3 g of 5,6,7,8-tetrahydro-5-hydroxymethylene-1-methyl-4(1H)-cycloheptapyrazolone in 90 ml of methanol. The reaction was heated at reflux for 30 minutes and the solvent was removed under reduced pressure. The residue was triturated in warm ether to give 4,5,6,7-tetrahydro-7-methyl-1H-cyclohepta[1,2-c:3,4 c']dipyrazole as a tan powder (96% yield) melting at about 153°-155° C.

reactant | Hydrazine | 0.5 ml | NN | H4N2
reactant | 5,6,7,8-tetrahydro-5-hydroxymethylene-1-methyl-4(1H)-cycloheptapyrazolone | 3 g | OC=C1CCCC2=C(C=NN2C)C1=O | C10H12N2O2
solvent | methanol | 90 ml | CO | CH4O
product | 4,5,6,7-tetrahydro-7-methyl-1H-cyclohepta[1,2-c:3,4 c']dipyrazole | 96% yield | CN1N=CC2=C1CCCC1=C2NN=C1 | C10H12N4
